US05879657
3-Aminomethylbenzoic acid.
HCl (Mamb; 13.08 g, 70.0 mmol) was dissolved in 120 ml DMF and DIEA (24.32 ml, 140 mmol) was added, changing the pH from 4 to 7.5. The white suspension was stirred for 30 min at room temperature before a solution of Boc-Asp(OBzl)-OSu (29.40 g, 70.0 mmol) in DMF (50 ml) was added. The mixture was allowed to stir 24 hr, during which time it turned to a gold solution. The solution was added to 5% citric acid (2000 ml) and cooled to 5° C. for 3 hr. The solids were then collected by filtration, washed with ice cold water (200 ml) and ice cold ethyl ether (100 ml), and dried under reduced pressure to give the title compound as a colorless solid (29.62 g, 92%); MP=149°-151° C.; DCI-MS: [M+NH4 ]=474.

reactant | HCl | 70.0 mmol, 13.08 g | Cl | ClH
reactant | DIEA | 140 mmol, 24.32 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc-Asp(OBzl)-OSu | 70.0 mmol, 29.40 g | N([C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C20H24N2O8
reactant | citric acid | 2000 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | gold | [Au] | Au
product | 3-Aminomethylbenzoic acid | 29.62 g, 92% | NCC=1C=C(C(=O)O)C=CC1 | C8H9NO2
